US05958942
3,4-Dihydro-1,3,7b-triazacyclopent[cd]inden-4-one
To a suspension of 343 mg (8.58 mmol) of 60% sodium hydride (dispersion in oil) in 3 ml of DMF was added, while stirring at room temperature, a solution of 880 mg (4.29 mmol) of 3-amino-5-ethoxycarbonylimidazo[1,2-a]pyridine in 5 ml of DMF. The mixture was stirred for 30 minutes at 100° C. After cooling, the reaction mixture was poured into ice-water, washed with ethyl acetate. The aqueous layer was neutralized by the addition of 6N-HCl. The resulting precipitates were collected by filtration, washed with water, and dried to afford 100 mg of the desired compound (14.7%, a brown solid). The filtrate was extracted with chloroform, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent:ethyl acetate/ethanol=10:1) to afford 27 mg of the desired compound (4.0%, a yellow solid)

reactant | sodium hydride | 8.58 mmol, 343 mg | [H-].[Na+]
reactant | 3-amino-5-ethoxycarbonylimidazo[1,2-a]pyridine | 4.29 mmol, 880 mg | NC1=CN=C2N1C(=CC=C2)C(=O)OCC | C10H11N3O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,4-Dihydro-1,3,7b-triazacyclopent[cd]inden-4-one | 100 mg | N=1C=C2N3C(=CC=CC13)C(N2)=O | C8H5N3O
